US05545652
2,4-Difluroaniline (25 g) and 25.2 g of pyridine were dissolved in 200 ml of dichloromethane and, with ice cooling, 33.3 g of phenyl chloroformate was added dropwise thereinto. The reaction solution was stirred with ice cooling for 30 minutes, washed with water and dried. The solvent was distilled off to give a mixture of phenyl 2,4-difluorophenylcarbamate and pyridine. To the mixture was added 30.7 g of 2-(diethoxy)ethylamine, and the resulting mixture was stirred at room temperature. The crystals separated out were collected by filtration and washed with petroleum ether to give 37.8 g of N-(2,2-diethoxyethyl)-N'-(2,4-difluorophenyl)urea as colorless crystals.

reactant | 2,4-Difluroaniline | 25 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | pyridine | 25.2 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 33.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl 2,4-difluorophenylcarbamate | FC1=C(C=CC(=C1)F)NC(OC1=CC=CC=C1)=O | C13H9F2NO2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2,2-diethoxyethyl)-N'-(2,4-difluorophenyl)urea | 37.8 g | C(C)OC(CNC(=O)NC1=C(C=C(C=C1)F)F)OCC | C13H18F2N2O3
